US05294734
9 g (23.7 mmol) of ethyl 4-bromomethyl-6-ethoxycarbonylmethoxy-2-formylamino-hex-3-enoate and 23.3 ml (94.8 mmol) of triisopropyl phosphite (90%) are heated to 80° C. and stirred for 18 hours under a pressure of 100 mbar. Excess triisopropyl phosphite is removed by distillation and the residue is chromatographed on silica gel with hexane/ethyl acetate 1:3 and then with hexane/ethyl acetate/ethanol (1:3:5%) giving ethyl 6-ethoxycarbonylmethoxy-2-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate as a yellow oil.

reactant | ethyl 4-bromomethyl-6-ethoxycarbonylmethoxy-2-formylamino-hex-3-enoate | 23.7 mmol, 9 g | BrCC(=CC(C(=O)OCC)NC=O)CCOCC(=O)OCC | C14H22BrNO6
reactant | triisopropyl phosphite | 94.8 mmol, 23.3 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | ethyl 6-ethoxycarbonylmethoxy-2-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate | C(C)OC(=O)COCCC(=CC(C(=O)OCC)NC=O)CP(=O)(OC(C)C)OC(C)C | C20H36NO9P
